US07728000B2
1,8-naphthalic anhydride (0.18 g, 0.9 mmol) was added to a solution of [3-[(3-aminopropyl)methylamino]propyl]carbamic acid tert-butyl ester previously prepared (Spicer at el., Bioorg. Med. Chem. 2002, vol. 10, p. 19) (0.2 g, 0.8 mmol) in absolute ethanol (20 ml). The reaction mixture was heated at reflux overnight. Removal of the solvent and purification by chromatography on alumina (CH2Cl2/MeOH, 50:1) yielded [3-[[3-(1,3-dioxo-3a,9b-dihydro-1H,3H-benzo[de]isoquinolin-2-yl)propyl]methylamino]propyl]carbamic acid tert-butyl ester (0.37 g, 90%) as a foam.

reactant | 1,8-naphthalic anhydride | 0.9 mmol, 0.18 g | C=1C=C2C=CC=C3C2=C(C1)C(=O)OC3=O | C12H6O3
reactant | [3-[(3-aminopropyl)methylamino]propyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN(C)CCCN)=O | C12H27N3O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | [3-[[3-(1,3-dioxo-3a,9b-dihydro-1H,3H-benzo[de]isoquinolin-2-yl)propyl]methylamino]propyl]carbamic acid tert-butyl ester | 0.37 g, 90% | C(C)(C)(C)OC(NCCCN(C)CCCN1C(C2=CC=CC=3C2C(C1=O)C=CC3)=O)=O | C24H33N3O4
